US09034866B2
Synthesis of 3-((1H-pyrazolo[3,4-b]pyridin-1-yl)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 3-((1H-pyrazolo[3,4-b]pyridin-1-yl)methyl)-10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide (prepared similarly as described in the synthesis of 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide replacing 2-methylimidazole with 6-azaindazole) was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a colorless solid (21 mg, 40%).

reactant | 3-((1H-pyrazolo[3,4-b]pyridin-1-yl)methyl)-10-bromo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | N1(N=CC=2C1=NC=CC2)CC2=C(N=C1N2CCOC2=C1C=C(C=C2)Br)C(=O)N | C19H15BrN6O2
reactant | 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC=C3)C)C1 | C17H16BrN5O2
reactant | 6-azaindazole | N1N=CC2=CC=NC=C12 | C6H5N3
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | 3-((1H-pyrazolo[3,4-b]pyridin-1-yl)methyl)-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 21 mg, 40% | N1(N=CC=2C1=NC=CC2)CC2=C(N=C1N2CCOC2=C1C=C(C=C2)C#CC(C)(C)O)C(=O)N | C24H22N6O3
